US07544835B2
Dimethyl 2-[3-({[(2,4-difluoroanilino)carbonyl]-oxy}methyl)-4-methoxybenzyl]malonate
Using dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate and 2,4-difluorophenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C14H18O6
reactant | 2,4-difluorophenylisocyanate | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
product | Dimethyl 2-[3-({[(2,4-difluoroanilino)carbonyl]-oxy}methyl)-4-methoxybenzyl]malonate | FC1=C(NC(=O)OCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2OC)C=CC(=C1)F | C21H21F2NO7
